### PR TITLE
Feat: Classify connected sets of reals

### PR DESCRIPTION
**Pull request by sweeneyde**
Classify the connected sets of real numbers

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Real/Archimedean.lean [hunk 1]
```diff
@@ -133,6 +133,11 @@ protected theorem is_glb_sInf (S : Set ℝ) (h₁ : S.Nonempty) (h₂ : BddBelow
   exact Real.isLUB_sSup _ h₁.neg h₂.neg
 #align real.is_glb_Inf Real.is_glb_sInf
 
+theorem exists_isGLB (S : Set ℝ) (hne : S.Nonempty) (hbdd : BddBelow S) :
+    ∃ x, IsGLB S x := by
+  use sInf S
```
Comment (grunweg) [inline Mathlib/Data/Real/Archimedean.lean:138]: Can you golf this into one line, say (untested) `exact ⟨sInfs, Real.is_glb_sInf S hne hbdd⟩` (and then remove the `by exact`)?

File: Mathlib/Topology/Connected/RealIntervals.lean [hunk 2]
```diff
@@ -0,0 +1,560 @@
...
+
+  - `classify_connected_reals` : A connected set of reals is one of:
+    - The bounded connected sets of reals above,
+    - `Iio a` for some `a : ℝ`,
+    - `Iic a` for some `a : ℝ`,
+    - `Ioi a` for some `a : ℝ`,
+    - `Ici a` for some `a : ℝ`,
+    - `Set.univ : Set ℝ` (all of ℝ).
+
+  - `encard_frontier_BoundedInterval` : Bounded intervals have exactly two endpoints.
```
Comment (grunweg) [inline Mathlib/Topology/Connected/RealIntervals.lean:34]: Small nit: IIRC, in English you start in lower-case after a colon. (This is different in e.g. German.)

**Comment by grunweg** [comment]
Thank you for the PR: I think it's great and definitely belongs to mathlib. Sadly, I don't have time in the near future to review such a large PR. I am sure it will get reviewed eventually! 

Two general questions/thoughts which might be helpful:
1. You're introducing a new structure `BoundedIntervalKind`. Can you describe *why* you're doing this? (I'm sure there's a good reason; you're making your reviewer's life easier by explaining this. Such information is also really useful for people seeing this later.)
2. This PR is quite large (560 added lines). Can you split this usefully in smaller pieces? (For instance, the first ~200 lines, before introducing the new structure?) As a rule of thumb, time to review PRs is super-linear in their size.

Often, first PRs have lots of small style issues (which is understandable); I noticed your PR hardly has any :-) You can certainly format it more compactly, but that's very minor.

File: Mathlib/Topology/Connected/RealIntervals.lean [hunk 3]
```diff
@@ -0,0 +1,560 @@
...
+    by_cases xb : x = b
+    · right; exact xb
+    have : x < b := Ne.lt_of_le xb x_le_b
+    left; exact ⟨a_lt_x, this⟩
+  · rintro x (x_Ioo | x_b)
+    · exact ⟨x_Ioo.1, LT.lt.le x_Ioo.2⟩
+    · exact ⟨(by rw [x_b]; exact hab), Eq.le x_b⟩
+
+section X_section
+variable
```
Comment (grunweg) [inline Mathlib/Topology/Connected/RealIntervals.lean:71]: Small suggestions:
- can you name the section more descriptively, or add a doc-comment what's in it? (Not required, but could make future readers' lives easier.)
- I'd write the variable statement on one line, here and elsewhere.

File: Mathlib/Topology/Connected/RealIntervals.lean [hunk 4]
```diff
@@ -0,0 +1,560 @@
...
+  {X : Set ℝ}
+
+lemma bdd_subset_Icc {infX supX : ℝ}
```
Comment (grunweg) [inline Mathlib/Topology/Connected/RealIntervals.lean:74]: In mathlib, these are typically formatted on one line (if it's not too long); or perhaps the conclusion separately.
I'm not sure which style is better; I at least wanted to let you know.

File: Mathlib/Topology/Connected/RealIntervals.lean [hunk 5]
```diff
@@ -0,0 +1,560 @@
...
+    (h_infX : IsGLB X infX) (h_supX : IsLUB X supX) :
+    X ⊆ Icc infX supX := by
+  intro x xX
```
Comment (grunweg) [inline Mathlib/Topology/Connected/RealIntervals.lean:77]: This can be golfed on one line. Can you give `xX` a more descriptive name? (I have no idea what it is about. A hypothesis `x ∈ X` is often called `hx`.)

File: Mathlib/Topology/Connected/RealIntervals.lean [hunk 6]
```diff
@@ -0,0 +1,560 @@
...
+  exact Ne.lt_of_le this (h_infX.1 xX)
+
+section conn_section
+variable
+  (conn : IsConnected X)
+
+-- connected in ℝ means order-connected.
+lemma conn_has_Icc
+    (a : ℝ) (aX : a ∈ X) (b : ℝ) (bX : b ∈ X) : Icc a b ⊆ X := by
+  have : OrdConnected X :=
```
Comment (grunweg) [inline Mathlib/Topology/Connected/RealIntervals.lean:103]: I would also format this on one line. Also, you can probably use dot notation (untested): `conn.isPreconnected.ordConnected`.
Then, you can inline this have into the line below.

File: Mathlib/Topology/Connected/RealIntervals.lean [hunk 7]
```diff
@@ -0,0 +1,560 @@
...
+    intro x_eq_supX
+    rw [x_eq_supX] at infX_X
+    contradiction
+  exact Ne.lt_of_le this (h_infX.1 xX)
+
+section conn_section
+variable
+  (conn : IsConnected X)
+
+-- connected in ℝ means order-connected.
```
Comment (grunweg) [inline Mathlib/Topology/Connected/RealIntervals.lean:100]: That would be a great doc comment: "A connected set in R is order-connected."
(Is the converse also true? That would also be useful to add.)

File: Mathlib/Topology/Connected/RealIntervals.lean [hunk 8]
```diff
@@ -0,0 +1,560 @@
...
+    Ioo infX supX ⊆ X := by
+  let ⟨z, zX⟩ := IsConnected.nonempty conn
+  have h₁ : Ioo infX z ⊆ X := connected_bddBelow_subset_contains_Ioo conn h_infX zX
+  have h₂ : Ioo z supX ⊆ X := connected_bddAbove_subset_contains_Ioo conn h_supX zX
+  have h₃ : Ioo infX supX ⊆ Ioo infX z ∪ {z} ∪ Ioo z supX := by
+    intro x ⟨infX_lt_x, x_lt_supX⟩
+    rcases lt_trichotomy x z with (x_lt_z | x_eq_z | z_lt_z)
+    · left; left
+      exact ⟨infX_lt_x, x_lt_z⟩
+    · left; right
```
Comment (grunweg) [inline Mathlib/Topology/Connected/RealIntervals.lean:149]: I do wonder if this can be golfed (i.e., written more concisely); `left; left` sticks out to me. If it can, you're welcome to do it.

File: Mathlib/Topology/Connected/RealIntervals.lean [hunk 9]
```diff
@@ -0,0 +1,560 @@
...
+    · apply h₁; assumption
+    · rw [mem_singleton_iff] at x_eq_z
+      rw [x_eq_z]
+      exact zX
+    · apply h₂; assumption
+  intro x x_Ioo
+  exact h₄ (h₃ x_Ioo)
+
+lemma characterize_Ioo
+    (infX_X : infX ∉ X) (supX_X : supX ∉ X) :
```
Comment (grunweg) [inline Mathlib/Topology/Connected/RealIntervals.lean:164]: I think this lemma is more readable on one line.

File: Mathlib/Topology/Connected/RealIntervals.lean [hunk 10]
```diff
@@ -0,0 +1,560 @@
...
+    rintro x ((_ | x_eq_z) | _)
+    · apply h₁; assumption
+    · rw [mem_singleton_iff] at x_eq_z
+      rw [x_eq_z]
+      exact zX
+    · apply h₂; assumption
+  intro x x_Ioo
+  exact h₄ (h₃ x_Ioo)
+
+lemma characterize_Ioo
```
Comment (grunweg) [inline Mathlib/Topology/Connected/RealIntervals.lean:163]: General comment: you seem to be naming lemmas according to what they mean informally.
In a big library, such naming is hard to find: usually, one lemma could have many informal names. This is why mathlib has adopted a naming question which is more formal or mechanic, you name a lemma according to its hypotheses and conclusions. (The informal name is great to have, and is well-placed in a doc comment!)

Have you seen the [naming convention](https://leanprover-community.github.io/contribute/naming.html) already? Can you take a look and try to rename your lemmas accordingly? Same for other lemmas above and below.

File: Mathlib/Topology/Connected/RealIntervals.lean [hunk 11]
```diff
@@ -0,0 +1,560 @@
...
+  apply Subset.antisymm
+  · apply subset_trans (bdd_subset_Icc h_infX h_supX)
+    exact Set.Icc_subset {infX} rfl rfl
+  · rw [singleton_subset_iff]
+    rcases IsLUB.nonempty h_supX with ⟨x, xX⟩
+    have : infX = x := LE.le.antisymm (h_infX.1 xX) (h_supX.1 xX)
+    exact mem_of_eq_of_mem (id this) xX
+
+end inf_sup_section
+end conn_section
```
Comment (grunweg) [inline Mathlib/Topology/Connected/RealIntervals.lean:212]: Style nit: the usual convention is to leave a blank line before each section ends. (Makes it easier to add future material.) To some extend, all of this is subjective, but it's the convention mathlib has settled on.

File: Mathlib/Topology/Connected/RealIntervals.lean [hunk 12]
```diff
@@ -0,0 +1,560 @@
...
+  use ⟨a, b, lt, IccKind⟩; simp only [BoundedInterval_as_set]
+
+/-- The major lemma, assuming inf and sup exist. -/
+lemma classify_connected_reals_with_GLB_lt_LUB
+    {X : Set ℝ} (conn : IsConnected X) {infX supX : ℝ}
+    (h_infX : IsGLB X infX) (h_supX : IsLUB X supX) (lt : infX < supX) :
+    isBoundedInterval X := by
+  by_cases infX_X : infX ∈ X
+  · by_cases supX_X : supX ∈ X
+    · use ⟨infX, supX, lt, IccKind⟩
```
Comment (grunweg) [inline Mathlib/Topology/Connected/RealIntervals.lean:258]: Can this be written on one line, as `exact ⟨infX, supX, lt, IccKind, characterize_Icc conn h_infX h_supX infX_X supX_X⟩`? Same for the other three cases.

File: Mathlib/Topology/Connected/RealIntervals.lean [hunk 13]
```diff
@@ -0,0 +1,560 @@
...
+    · use ⟨infX, supX, lt, IocKind⟩
+      exact characterize_Ioc conn h_infX h_supX lt infX_X supX_X
+    · use ⟨infX, supX, lt, IooKind⟩
+      exact characterize_Ioo conn h_infX h_supX infX_X supX_X
+
+/-- A connected subset of ℝ is either a singleton or a nontrivial bounded interval. -/
+theorem classify_connected_bounded_reals
+    {X : Set ℝ} (conn : IsConnected X) (above : BddAbove X) (below : BddBelow X) :
+    (∃ a : ℝ, X = {a}) ∨ isBoundedInterval X := by
+  have nonempty := IsConnected.nonempty conn
```
Comment (grunweg) [inline Mathlib/Topology/Connected/RealIntervals.lean:272]: You can use dot notation again: `conn.nonempty`. (And you may consider inlining this `have` into the two lemmas below.)

File: Mathlib/Topology/Connected/RealIntervals.lean [hunk 14]
```diff
@@ -0,0 +1,560 @@
...
+  BddAbove.mono (BoundedInterval_subset_Icc I) bddAbove_Icc
+
+theorem boundedInterval_left_endpoint_isGLB :
+    IsGLB (BoundedInterval_as_set I) I.left_endpoint := by
+  let icc := Icc I.left_endpoint I.right_endpoint
+  let ioo := Ioo I.left_endpoint I.right_endpoint
+  have h₁ : IsGLB icc I.left_endpoint := by
+    rw [← csInf_Icc (le_of_lt I.left_lt_right)]
+    apply Real.is_glb_sInf icc
+    exact nonempty_Icc.mpr (le_of_lt I.left_lt_right)
```
Comment (grunweg) [inline Mathlib/Topology/Connected/RealIntervals.lean:358]: Two style comments:
- your apply creates two subgoals; we try to use focusing dots in this case
(Rule of thumb: there should be only one top-level goal.)
- you could solve the second goal by doing something like
    `refine Real.is_glb_sInf icc ?_ bddBelow_Icc` or perhaps `apply Real.is_glb_sInf icc _ bddBelow_Icc` (untested). Then you only have one goal left.
-

File: Mathlib/Topology/Connected/RealIntervals.lean [hunk 15]
```diff
@@ -0,0 +1,560 @@
...
+    exact bddBelow_Icc
+  have h₂ : IsGLB ioo I.left_endpoint := by
+    rw [← csInf_Ioo I.left_lt_right]
+    apply Real.is_glb_sInf ioo
+    exact nonempty_Ioo.mpr I.left_lt_right
+    exact bddBelow_Ioo
+  apply IsGLB.of_subset_of_superset h₂ h₁
+  exact BoundedInterval_contains_Ioo I
```
Comment (grunweg) [inline Mathlib/Topology/Connected/RealIntervals.lean:366]: I would just provide these arguments to the apply directly, e.g. (untested)
`IsGLB.of_subset_of_superset h₂ h₁ (BoundedInterval_contains_Ioo I) (BoundedInterval_contains_Icc I)`

**Review by grunweg — COMMENTED** [review]
Whoops; it seems I actually ended up reviewing much of your PR for "golfing" and style tweaks. In any case, here you go, I hope you find these useful!

All of these are minor suggestions, just making your code a little nicer/shorter/more concise. It's completely normal to get a lot of suggestions initially. Put differently: I care about your PR making it to mathlib, which is why I have lots of suggestions for how to improve it.

**Comment by sweeneyde** [comment]
Thank you for the review!

I just found [`IsPreconnected.mem_intervals`](https://github.com/leanprover-community/mathlib4/blob/09e40ec450457f04f25256b684a824fd0cc6dd36/Mathlib/Topology/Order/IntermediateValue.lean#L282), which (along with `Real.instConditionallyCompleteLinearOrderReal`, etc.) looks to be largely equivalent to a lot of the work here, so I'm going to close this.

I'll try to keep your comments in mind if I open another PR here (for related or unrelated work).
